US04992503
Preparation of N-(2-Methoxy-5-pyridyl)-N-(pivaloyloxymethyl)-cyclopropane carboxamide
Sodium hydride (0.5 g, 0.019 mol) was suspended in dry tetrahydrofuran followed by addition of N-(2-methoxy-5-pyridyl)-cyclopropane carboxamide and a gas was evolved. The reactoin was stirred for 20 minutes and then chloromethylpivalate (2.9 g, 0.019 mol) was added. The reaction was stirred for two hours until pH was near neutral, and then diluted with ether and washed with water. The ether phase was washed with water, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to give 3.4 g of a yellow oil. This was extracted with hexane leaving some residue and passed through a 1" pad of florisil. This gave an evaporation of the solvent in vacuo, 1.8 g of tht title compound as a yellow oil. The structure was confirmed by MS, IR and NMR analysis.

reactant | Sodium hydride | 0.019 mol, 0.5 g | [H-].[Na+]
reactant | N-(2-methoxy-5-pyridyl)-cyclopropane carboxamide | COC1=NC=C(C=C1)NC(=O)C1CC1 | C10H12N2O2
reactant | chloromethylpivalate | 0.019 mol, 2.9 g | ClCCC(C(=O)[O-])(C)C
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-(2-Methoxy-5-pyridyl)-N-(pivaloyloxymethyl)-cyclopropane carboxamide | 3.4 g | COC1=NC=C(C=C1)N(C(=O)C1CC1)COC(C(C)(C)C)=O | C16H22N2O4
